US04452851
Vilsmeier reagent prepared from phosphorus oxychloride (0.67 ml) and N,N-dimethylformamide (0.57 ml) was suspended in dry tetrahydrofuran (24 ml). To the suspension was added 2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid (syn isomer) (2.4 g) at 0° to 5° C. The solution was stirred at the same temperature for an hour to prepare the activated acid solution. To a solution of benzhydryl 7-amino-3-tosyloxy-3-cephem-4-carboxylate (3.0 g) and monotrimethylsilylacetamide (5.8 g) in methylene chloride (30 ml) was added the activated acid solution obtained above at -20° C. all at once. The reaction mixture was stirred at -10° C. for an hour. The resulting solution was poured into water (100 ml) and extracted with ethyl acetate (100 ml). The separated organic layer was washed with a saturated aqueous solution of sodium bicarbonate, and with a saturated aqueous solution of sodium chloride. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-tosyloxy-3-cephem-4-carboxylate (syn isomer) (3.4 g).

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 0.67 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid | 2.4 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OC(C)(C)C | C12H15N3O6S
reactant | benzhydryl 7-amino-3-tosyloxy-3-cephem-4-carboxylate | 3.0 g | NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C2=CC=C(C)C=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H24N2O6S2
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 0.57 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-tosyloxy-3-cephem-4-carboxylate | 3.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C2=CC=C(C)C=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C39H37N5O11S3
